US06720320B2
2-(7-methoxybenzo(b)furan-2-yl)-5-phenyl-1,3,4-oxadiazole
N′-(7-Methoxybenzo(b)furan-2-ylcarbonyl)benzohydrazide (5.0 g) was dissolved in thionyl chloride (20 ml) and the mixture was stirred with heating at 80° C. for 1 hr. Thionyl chloride was evaporated under reduced pressure and water was added to the residue. The mixture was extracted with ethyl acetate and the organic layer was washed with saturated aqueous solution of sodium hydrogencarbonate, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (3.7 g) as pale-yellow crystals.

reactant | N′-(7-Methoxybenzo(b)furan-2-ylcarbonyl)benzohydrazide | 5.0 g | COC1=CC=CC2=C1OC(=C2)C(=O)NNC(C2=CC=CC=C2)=O | C17H14N2O4
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(7-methoxybenzo(b)furan-2-yl)-5-phenyl-1,3,4-oxadiazole | 3.7 g | COC1=CC=CC2=C1OC(=C2)C=2OC(=NN2)C2=CC=CC=C2 | C17H12N2O3
